US05140031
A. N-Cyano-N'-4-cyanophenylthiourea
The suspension of monosodium cyanamide (4.3 g, 67.2 mmol) in absolute ethanol (170 mL) was slowly treated with 4-cyanophenylisothiocyanate (10.75 g, 67.2 mmol). The reaction was allowed to stir at room temperature for 1 hour and then heated at 75° C. for 4 hours. The reaction was cooled to room temperature and the colorless solid was filtered and washed with ethanol to give the title A compound (10.0 g), m.p. >250° C.

reactant | monosodium cyanamide | 67.2 mmol, 4.3 g | N#CN.[Na]
reactant | 4-cyanophenylisothiocyanate | 67.2 mmol, 10.75 g | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
solvent | ethanol | 170 mL | C(C)O | C2H6O
product | N-Cyano-N'-4-cyanophenylthiourea | 10.0 g | C(#N)NC(=S)NC1=CC=C(C=C1)C#N | C9H6N4S
